US07202245B2
Solid sodium triacetoxyborohydride (59 mg) and morpholine (15 μL) were added to a solution of 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carbaldehyde (50 mg) in 1,2-dichloroethane (1.0 mL). The resulting suspension was stirred at 23° C. for 2.5 hrs., and then a portion of AcOH (10 μL) was added. After an additional 2.5 hrs., the reaction mixture was concentrated. The residue was partitioned between methylene chloride and a saturated aqueous solution of sodium bicarbonate. The organic layer was washed with brine, dried over sodium sulfate and concentrated. Silica gel chromatography afforded isopropyl-(1-methoxy-7-morpholin-4-ylmethyl-[1,2,4]triazolo[4,3-a]quinoxalin-4-yl)-amine as a white solid. MS (M+H)+=357.5.

reactant | sodium triacetoxyborohydride | 59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | morpholine | 15 μL | N1CCOCC1 | C4H9NO
reactant | 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carbaldehyde | 50 mg | C(C)(C)NC=1C=2N(C3=CC=C(C=C3N1)C=O)C(=NN2)OC | C14H15N5O2
reactant | AcOH | 10 μL | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
product | isopropyl-(1-methoxy-7-morpholin-4-ylmethyl-[1,2,4]triazolo[4,3-a]quinoxalin-4-yl)-amine | C(C)(C)NC=1C=2N(C3=CC=C(C=C3N1)CN1CCOCC1)C(=NN2)OC | C18H24N6O2
